US07199135B2
TERT-BUTYL4-{3-[(CYCLOPROPYLCARBONYL)AMINO]PHENYL}-1-PIPERIDINE CARBOXYLATE:
ESMS m/e: 345.5 (M+H)+; N-[3-(4-PIPERIDINYL) PHENYL]CYCLOPROPANECARBOXAMIDE: ESMS m/e: 245.0 (M+H)+; N-[3-(4-PIPERIDINYL)PHENYL]BUTANAMIDE: ESMS m/e: 247.3 (M+H)+; N,N-DIMETHYL-N′-[3-(4-PIPERIDINYL) PHENYL]UREA: ESMS m/e: 248.2 (M+H)+; ISOPROPYL 3-(4-PIPERIDINYL)PHENYL CARBAMATE: ESMS m/e: 263.4 (M+H)+; BENZYL 3-(4-PIPERIDINYL)PHENY LCARBAMATE: ESMS m/e: 311.3 (M+H)+; 2-METHYL-N-[4-(4-PIPERIDINYL)PHENYL]PROPANAMIDE: ESMS m/e: 247.1 (M+H)+; N-[4-(4-PIPERIDINYL)PHENYL]BUTANAMIDE: ESMS m/e: 247.2 (M+H)+.

reactant | N-[3-(4-PIPERIDINYL) PHENYL]CYCLOPROPANECARBOXAMIDE | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
reactant | N-[3-(4-PIPERIDINYL)PHENYL]BUTANAMIDE | N1CCC(CC1)C=1C=C(C=CC1)NC(CCC)=O | C15H22N2O
reactant | N,N-DIMETHYL-N′-[3-(4-PIPERIDINYL) PHENYL]UREA | CN(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C14H21N3O
reactant | BENZYL 3-(4-PIPERIDINYL)PHENY LCARBAMATE | N1CCC(CC1)C=1C=C(C=CC1)NC(OCC1=CC=CC=C1)=O | C19H22N2O2
reactant | 2-METHYL-N-[4-(4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC=C(C=C1)C1CCNCC1)C | C15H22N2O
reactant | N-[4-(4-PIPERIDINYL)PHENYL]BUTANAMIDE | N1CCC(CC1)C1=CC=C(C=C1)NC(CCC)=O | C15H22N2O
product | TERT-BUTYL4-{3-[(CYCLOPROPYLCARBONYL)AMINO]PHENYL}-1-PIPERIDINE CARBOXYLATE | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=CC=C1)NC(=O)C1CC1 | C20H28N2O3
